US07368578B2
To a mixture of ethyl (4-hydroxy-3-methoxyphenyl)acetate (7.00 g), potassium carbonate (5.43 g) and N,N-dimethylformamide (100 mL) was added 4-chloromethyl-5-methyl-2-phenyl-1,3-oxazole (8.16 g) with stirring, and the mixture was stirred overnight at 80° C. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with distilled water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. Recrystallization of the residue from ethyl acetate-hexane gave ethyl {3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenyl}acetate as white crystals (11.38 g, yield 76%). melting point: 86-87° C.

reactant | ethyl (4-hydroxy-3-methoxyphenyl)acetate | 7.00 g | OC1=C(C=C(C=C1)CC(=O)OCC)OC | C11H14O4
reactant | potassium carbonate | 5.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | 4-chloromethyl-5-methyl-2-phenyl-1,3-oxazole | 8.16 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
solvent | Water | O | H2O
product | ethyl {3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]phenyl}acetate | 11.38 g, yield 76% | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CC(=O)OCC | C22H23NO5
